US05573726
4-Methyl-N-tetradecanoyl-1-piperazinepropylamine. (Compound No. 9)
4.7 g. (0.03 mol) of N-methyl-N'-(3-aminopropyl)-piperazine (prepared from N-methyl piperazine and acrylonitrile and subsequent reduction to the primary amine) in 200 mL chloroform was cooled down in an ice bath. To this was added 7.3 g. (0.03 mol) of myristoyl chloride dropwise for two hours. The reaction mixture was brought to room temperature and then allowed to react for another four hours. The reaction mixture was treated with 10 g. of sodium bicarbonate in 100 mL water and the separated chloroform layer was washed with water (2×200 mL). The organic layer was dried (MgSO4), filtered and concentrated in vacuo. Crystallization from acetonitrile afforded 8 g. (72.3%) of the subject product.

reactant | N-methyl-N'-(3-aminopropyl)-piperazine | 0.03 mol | CN1CCN(CC1)CCCN | C8H19N3
reactant | N-methyl piperazine | CN1CCNCC1 | C5H12N2
reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | myristoyl chloride | 0.03 mol | C(CCCCCCCCCCCCC)(=O)Cl | C14H27ClO
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-Methyl-N-tetradecanoyl-1-piperazinepropylamine | CN1CCN(CC1)CCCNC(CCCCCCCCCCCCC)=O | C22H45N3O
